US07183278B1
3-Hydroxy-4,6-dimethoxy-4′-phenoxypicolinanilide
The procedure of Example 29 was repeated, except that 3-benzyloxy-4-methoxypicolinic acid was changed to 3-benzyloxy-4,6-dimethoxypicolinic acid and 4-(4′-methoxyphenoxy)aniline was changed to 4-phenoxyaniline. Thus, the title compound was prepared.

reactant | 3-benzyloxy-4-methoxypicolinic acid | C(C1=CC=CC=C1)OC=1C(=NC=CC1OC)C(=O)O | C14H13NO4
reactant | 3-benzyloxy-4,6-dimethoxypicolinic acid | C(C1=CC=CC=C1)OC=1C(=NC(=CC1OC)OC)C(=O)O | C15H15NO5
reactant | 4-(4′-methoxyphenoxy)aniline | COC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C13H13NO2
reactant | 4-phenoxyaniline | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
product | 3-Hydroxy-4,6-dimethoxy-4′-phenoxypicolinanilide | OC=1C(=NC(=CC1OC)OC)C(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C20H18N2O5
